US07820649B2
A mixture of N-(isopropylcarbamoylmethyl)-5-(4-methylperhydro-1,4-diazepin-1-yl)-2-nitrobenzamide (510 mg, 1.4 mmol) and 10% Pd/C (60 mg) in MeOH (30 mL) was shaken under 50 psi H2 (g) in a Parr shaker for 5 h. The mixture was filtered through a pad of celite and the solvent removed in vacuo to afford 2-amino-N-(isopropylcarbamoylmethyl)-5-(4-methylperhydro-1,4-diazepin-1-yl)benzamide (INTERMEDIATE V.1) (470 mg, 1.4 mmol, 100%) as a brownish-green glass.

reactant | N-(isopropylcarbamoylmethyl)-5-(4-methylperhydro-1,4-diazepin-1-yl)-2-nitrobenzamide | 1.4 mmol, 510 mg | C(C)(C)NC(=O)CNC(C1=C(C=CC(=C1)N1CCN(CCC1)C)[N+](=O)[O-])=O | C18H27N5O4
solvent | MeOH | 30 mL | CO | CH4O
catalyst | Pd/C | 60 mg | [Pd] | Pd
product | 2-amino-N-(isopropylcarbamoylmethyl)-5-(4-methylperhydro-1,4-diazepin-1-yl)benzamide | 1.4 mmol, 470 mg, 100% | NC1=C(C(=O)NCC(NC(C)C)=O)C=C(C=C1)N1CCN(CCC1)C | C18H29N5O2
